US05183492
A mixture of 10 g of finely powdered iron. 50 ml of ethanol, 11 ml of water and 1 ml of concentrated hydrochloric acid is heated to 65° C. while stirring. To this mixture is added dropwise during 2 hours a solution of 15 g of ethyl 2-(2-chloro-4-fluoro-5-nitro-benzoyloxy)-2-methyl-propionate in 15 ml of ethanol in such a manner that the temperature does not rise above 80° C. After completion of the addition the reaction mixture is stirred at 70° C. for a further 16 hours. After cooling the reaction mixture is suction filtered over Celite®. The Celite® is rinsed well with water and with ethyl acetate. The filtrate is adjusted to pH 8 with 2N potassium bicarbonate solution. It is once more filtered over Celite® and again rinsed with water and ethyl acetate. The filtrate is now extracted three times with 400 ml of ethyl acetate each time. The organic phases are back-washed twice with 300 ml of saturated sodium chloride solution each time, dried over anhydrous magnesium sulphate and evaporated under reduced pressure. The residue is fractionated in a high vacuum and distilled. In this manner there is obtained ethyl 2-(5-amino-2-chloro-4-fluoro-benzoyloxy)-2-methylpropionate, b.p. 146°-151° C./0.07 torr.

reactant | water | 11 ml | O | H2O
reactant | hydrochloric acid | 1 ml | Cl | ClH
reactant | ethyl 2-(2-chloro-4-fluoro-5-nitro-benzoyloxy)-2-methyl-propionate | 15 g | ClC1=C(C(=O)OC(C(=O)OCC)(C)C)C=C(C(=C1)F)[N+](=O)[O-] | C13H13ClFNO6
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | iron | [Fe] | Fe
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | ethyl 2-(5-amino-2-chloro-4-fluoro-benzoyloxy)-2-methylpropionate | NC=1C(=CC(=C(C(=O)OC(C(=O)OCC)(C)C)C1)Cl)F | C13H15ClFNO4
